US06492348B1
(2R,3R,4S,5S)-2-[2-chloro-6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]-5-[3-(hydroxymethyl)isoxazol-5-yl]tetrahydrofuran-3,4-diol
To (2R,3R,4R,5S)-4-(acetyloxy)-5-{3-[(acetyloxy)methyl]isoxazol-5-yl}-2-[2-chloro-6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate (4.02 mg) in methanol (2 ml) at 0° C. was added tert-butylamine (0.012 ml), and the mixture was allowed to stand at 0 ° C. for 3 h. The solvent was evaporated in vacuo to furnish the title compound as a yellow gum (2.48 mg).

reactant | (2R,3R,4R,5S)-4-(acetyloxy)-5-{3-[(acetyloxy)methyl]isoxazol-5-yl}-2-[2-chloro-6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate | 4.02 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=CC(=NO1)COC(C)=O)N1C2=NC(=NC(=C2N=C1)NC1=C(C=C(C=C1)Cl)F)Cl | C25H21Cl2FN6O8
reactant | tert-butylamine | 0.012 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 2 ml | CO | CH4O
product | (2R,3R,4S,5S)-2-[2-chloro-6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]-5-[3-(hydroxymethyl)isoxazol-5-yl]tetrahydrofuran-3,4-diol | 2.48 mg | ClC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C1=CC(=NO1)CO)NC1=C(C=C(C=C1)Cl)F | C19H15Cl2FN6O5
